US07737166B2
tert-Butyl [3-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)cyclopent-2-enyl]carbamate (I-47)
A 1,4-dioxane (6 ml) solution of 7-bromo-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-46) (89 mg, 0.252 mmol), 1-(N-tert-butoxycarbonylamino)-3-tri-n-butylstannyl-2-cyclopentene (143 mg, 0.302 mmol), bis(triphenylphosphine)palladium(II) chloride (8.8 mg, 0.0126 mmol), 2,6-di-tert-butyl-p-cresol (5.6 mg, 0.0252 mmol) was refluxed overnight. After cooling, the reaction liquid was concentrated under reduced pressure, the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=10:1→8:1→5:1) to obtain the entitled compound (87 mg, 75%) as a pale brown solid.

reactant | 7-bromo-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.252 mmol, 89 mg | BrC=1C(=C(C(=C2N=C(OC21)C2CC2)C#N)C)C2=CC=CC=C2 | C18H13BrN2O
reactant | 1-(N-tert-butoxycarbonylamino)-3-tri-n-butylstannyl-2-cyclopentene | 0.302 mmol, 143 mg | C(C)(C)(C)OC(=O)NC1C=C(CC1)[Sn](CCCC)(CCCC)CCCC
reactant | 2,6-di-tert-butyl-p-cresol | 0.0252 mmol, 5.6 mg | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.0126 mmol, 8.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | tert-Butyl [3-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)cyclopent-2-enyl]carbamate | 87 mg, 75% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)C2=CC(CC2)NC(OC(C)(C)C)=O)C2=CC=CC=C2)C | C28H29N3O3
